2131-11-16 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-11-15**] 03:15 PM
   from L wrist.
 PICC LINE - START [**2131-11-15**] 06:07 PM
   - SVO2 improved overnight with fluid from 60 to 65
   - anion gap closing
   - BP responsive to fluid and blood, but UOP still poor, will attempt
   low dose neo given tachycardia, as currently seems volume resuscitated
   - random cortisol 60
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2131-11-15**] 04:48 PM
   Vancomycin - [**2131-11-15**] 06:06 PM
   Infusions:
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-16**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 83 (76 - 98) bpm
   BP: 83/47(56) {80/34(47) - 113/70(82)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 69.4 kg (admission): 72.3 kg
   Height: 62 Inch
           Total In:
                                                                  2,149 mL
                                                                  2,160 mL
   PO:
           TF:
   IVF:
                                                                  1,862 mL
                                                                  2,097 mL
   Blood products:
                                                                    287 mL
                                                                     63 mL
   Total out:
                                                                    110 mL
                                                                    113 mL
   Urine:
                                                                    110 mL
                                                                    113 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,039 mL
                                                                  2,047 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.40/37/95.[**Numeric Identifier 253**]/20/0
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : trace at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   310 K/uL
   8.8 g/dL
   104 mg/dL
   2.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   53 mg/dL
   107 mEq/L
   139 mEq/L
   26.7 %
   24.3 K/uL
        [image002.jpg]
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
                            [**2131-11-15**]  04:47 PM
                            [**2131-11-15**]  09:09 PM
                            [**2131-11-16**]  12:11 AM
                            [**2131-11-16**]  05:44 AM
   WBC
   15.0
   11.8
   14.6
   16.0
   21.1
   24.3
   Hct
   24.7
   30.4
   27.8
   27.9
   27.3
   26.9
   26.9
   26.7
   Plt
   180
   143
   144
   163
   292
   310
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   2.3
   2.2
   TropT
   2.01
   1.93
   2.02
   TCO2
   24
   Glucose
   108
   123
   118
   123
   115
   126
   104
   Other labs: PT / PTT / INR:17.8/35.4/1.6, CK / CKMB /
   Troponin-T:95/5/2.02, ALT / AST:75/90, Alk Phos / T Bili:114/0.7,
   Differential-Neuts:89.1 %, Lymph:5.8 %, Mono:3.6 %, Eos:1.2 %,
   Fibrinogen:560 mg/dL, Lactic Acid:1.5 mmol/L, LDH:517 IU/L, Ca++:7.1
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo F with ischemic cardiomyopathy EF=25-30%, CAD s/ CABG & s/p
   NSTEMI w/in the last week, heart block s/p dual-chamber pacer
   transferred to the MICU with hypotension, decreased urine output, new
   anion gap, and increased leukocytosis.
   .
   # Hypotension: Distributive and cardiogenic etiologies must be
   considered in the pt with CHF, CAD, recent PNA, and marked
   leukocytosis. Most likely hypovolemic given physical exam, urine sodium
   of 11, decreased po intake, and orthostasis. SVO2 imprved with IVF from
   60 to 65. Neck veins initially flat, now with JVP~14cm.
   --Although most likely hypovolemic, cannot truly exclude infection in
   this pt with WBC 25: Empiric Vanco & Cefepime (d1=[**11-15**]),
   --Cautious IVF to achieve improved UOP (if possible, oliguria may also
   be intrarenal)
   --trying to avoid perihperal pressor given SVO2, but  chose neo if
   necessary as already tachycardic and s/p recent NSTEMI; will recheck
   SVO2 on Neo, anticipate that it will go down
   --ROMI: Initial Trop still elevated, but down-trending, slow decline
   not surprising given renal failure. CK/MB flat.
   .
   # Leukocytosis: Etilogy of leukocytosis was unclear even before acute
   jump from 18 to 28 today.  Does raise suspicion for CDIFF.  Less likely
   would be acute rxn to pacer implantation yesterday--too early to invoke
   infectious process in pacer pocket, moreover, does not appear
   infected.  Lines could have been a source, but BCX on [**11-12**] NGTD and
   pending from [**11-15**].
   --Empiric Abx covg as above, f/u cultures
   --LFTs with mild new transaminitis but normal bili, alk phos arguing
   against biliary process. That said, would image, if WBC persists. Trend
   LFTs (could be [**1-29**] to hypotension/hypoperfusion)
   --Would also consider diagnostic thoracentesis as this effusion has
   persisted despite otherwise effective diuresis.
   --f/u BCX/UCX, no sputum ordered as do not suspect lung gicen stable
   resp stutus and imprving CXR
   .
   # CAD: 3VD of both native vessels and grafts. EKG not overtly
   concerning for ischemia, but difficult to interpret in setting of LBBB.
   --ASA, PLAVIX, LIPITOR 80, HOLD ACEi, Metoprolol with high hold
   parameters.
   .
   # CHF: Currrently dry as above. Holding ACEI given BP and ARF, but will
   resume ASAP. Holding parameters for BB. As above, will carefully
   monitor fluid status with repletion given hx of flash pulm edema.
   - Given low EF, her tolerance of afib may be limited and forward flow
   may improve with restoration of atrial kick; consdier discussing
   elective cardioversion with EP (would require TEE).
   .
   Rhythm: AFIB, Heart Block s/p dual chamber pacer: S/p EP interogation.
   Intermittently pacing fast at variable rates. Per EP, this is part of
   rate-responsive algorithm and is functioning appropriatley. Would
   benefit from coumadin in long run, but seems that cardiology team
   deferred for now given persistently low Hct and guiaic +.
   --metoprolol with high BP hold parameter
   --d/w EP, perhaps max rate could be lowered as she is fairly inactive
   at baseline and is pacing to 100s at rest.
   .
   # Oliguric Renal Failure: Urine sodium=11 suggesting pre-renal
   etiology.  That said, absence of aggressive diuresis recently and
   contrast load 48-72 hrs ago argue for some element of contrast
   nephropathy.  Oliguria somewhat improved s/p IVF but UOP still <30 at
   this time and O2 requirement slightly increased.
   --continue to trend.
   --small boluses to achive increase in UOP (cautiously [**1-29**] CHF and resp
   status)
   --repeat urine lytes
   --consider renal c/s if UOP fails to improve
   --trend UOP on low-dose neo, doubt this will have a significant effect
   --Avoid nephrotoxins, renally dose
   .
   # Elevated PTT: Noted previously. SQH d/c by floor team for this
   reason. Will restart SQH [**Hospital1 **] over tid and monitor PTT.
   # Anemia: Guiaic +. If requires long term coumadin, colonoscopy should
   be expedited for soon after d/c.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: H2B, heparin SQ, bowel regimen
   # ACCESS: PIV  PICC
   # CODE:  FULL
   # CONTACT:  DAUGHTERS
   # DISPO: ICU
   ICU Care
   Nutrition: CARDIAC REGULAR
   Glycemic Control:
   Lines:
   22 Gauge - [**2131-11-15**] 03:03 PM
   PICC Line - [**2131-11-15**] 06:07 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Since BP/UOP seems to have responded to blood better than IVF, will
   administer second unit.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6721**] [**Name8 (MD) 6722**], MD
   on:[**2131-11-16**] 12:16 ------

2131-11-16 09:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - UOP 10-20cc/hr
   - 3.5 L NS with persistent hypotension - started neo
   - PICC line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2131-11-15**] 04:48 PM
   Vancomycin - [**2131-11-15**] 06:06 PM
   Infusions:
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-16**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 83 (76 - 98) bpm
   BP: 83/47(56) {80/34(47) - 113/70(82)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 69.4 kg (admission): 72.3 kg
   Height: 62 Inch
           Total In:
                                                                  2,149 mL
                                                                  2,211 mL
   PO:
           TF:
   IVF:
                                                                  1,862 mL
                                                                  2,149 mL
   Blood products:
                                                                    287 mL
                                                                     63 mL
   Total out:
                                                                    110 mL
                                                                    113 mL
   Urine:
                                                                    110 mL
                                                                    113 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,039 mL
                                                                  2,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.40/37/95.[**Numeric Identifier 253**]/20/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), elevated JVP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   310 K/uL
   104 mg/dL
   2.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   53 mg/dL
   107 mEq/L
   139 mEq/L
   26.7 %
   24.3 K/uL
        [image002.jpg]
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
                            [**2131-11-15**]  04:47 PM
                            [**2131-11-15**]  09:09 PM
                            [**2131-11-16**]  12:11 AM
                            [**2131-11-16**]  05:44 AM
   WBC
   15.0
   11.8
   14.6
   16.0
   21.1
   24.3
   Hct
   24.7
   30.4
   27.8
   27.9
   27.3
   26.9
   26.9
   26.7
   Plt
   180
   143
   144
   163
   292
   310
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   2.3
   2.2
   TropT
   2.01
   1.93
   2.02
   TCO2
   24
   Glucose
   108
   123
   118
   123
   115
   126
   104
   Other labs: PT / PTT / INR:17.8/35.4/1.6, CK / CKMB /
   Troponin-T:95/5/2.02, ALT / AST:75/90, Alk Phos / T Bili:114/0.7,
   Differential-Neuts:89.1 %, Lymph:5.8 %, Mono:3.6 %, Eos:1.2 %,
   Fibrinogen:560 mg/dL, Lactic Acid:1.5 mmol/L, LDH:517 IU/L, Ca++:7.1
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR - Increased bilateral opacities c/w pulmonary edema.  L
   effusion.
   Microbiology: No positive micro data. [**11-15**] - Blood/urine pending. C.
   diff negative.
   Assessment and Plan
   76 y/o, female with history of CAD s/p CABG, HTN, and asthma visiting
   from [**Location (un) 9832**], originally admitted to MICU for PNA, hypercarbic
   respiratory failure (intubated), ARF, CHF, NSTEMI, bradycardia
   requiring temp pacer wire, and afib with RVR.  Went to floor [**11-11**] -
   got cath, pacer placed and then bounced back to us from [**Hospital Ward Name **] 3 [**11-15**]
   with acute on CRI, hypotension, decreased urine output, new anion gap,
   and increased leukocytosis.
   # Hypotension: Most likely hypovolemic, but given elevated WBC count,
   cannot r/o septic physiology.  IVF overnight, now in mild heart
   failure.  EKG and troponins argue against cardiogenic component.
   - 1 unit PRBC, neo to keep MAP > 55, judicious IVF given mild CHF
   - Empiric Vanco & Cefepime
   - F/U cultures
   - R/O ACS
   - TTE to r/o pericardial effusion
   # Leukocytosis: Must consider infectious etiology/septic shock given
   pressor requirement.  Recent instrumentation with pacer placement.
   Elevated LFTs.  L effusion.  C. diff negative.  No localizing symptoms.
   - Empiric abx coverage with vanc/cefepime
   - Consider abd US if WBC elevation and elevated LFTs persist
   - Consider diagnostic [**Female First Name (un) **] on L if persistent leukocytosis and pressor
   requirement
   - F/U blood/urine cultures
   # Oliguric Renal Failure: Urine sodium=11 suggesting pre-renal
   etiology.  [**Month (only) 8**] also be a component of contrast nephropathy.
   - [**Hospital1 **] creatinine
   - Judicious IVF
   - Renal c/s today
   # CAD: 3VD of both native vessels and grafts.
   - Continue Asa, Plavix, Lipitor
   - Hold ACE/metoprolol
   # CHF: Mild pulmonary edema and elevated JVP.
   - Hold IVF and use pressors or hypotension.
   # Arrhythmia: AFIB, Heart Block s/p dual chamber pacer. S/p EP
   interrogation today. Intermittently pacing fast at variable rates. Per
   EP, this is part of rate-responsive algorithm and is functioning
   appropriatley. Would benefit from coumadin in long run, but seems that
   cardiology team deferred for now given persistently low Hct and guiaic
   +.
   - Appreciate EP input.
   # Elevated LFTs: Possibly related to hypotension.  Unlikely to be
   indication of infection. ? congestive hepatopathy
   - Will follow
   - Consider abd u/s as above
   # Elevated PTT: Noted previously. SQH d/c by floor team for this
   reason. Will restart SQH and monitor PTT.
   # Anemia: Guiaic +. If requires long term coumadin, colonoscopy should
   be expedited for soon after d/c.
   ICU Care
   Nutrition: Poor PO intake.
   Glycemic Control:
   Lines:
   22 Gauge - [**2131-11-15**] 03:03 PM
   PICC Line - [**2131-11-15**] 06:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-11-17 06:02:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   EP: Switched her back to VVI at 60
   Renal Consulted: thought most likely prerenal given urine lytes, poor
   po, hypotension. Wanted to rule out AIN given rash, and WBC casts seen
   in urine. U eos sent. Recommended 1 additional liter IVFs after blood
   finished.
   Renal US negative
   Got 1u PRBCs, BP briefly went into a normal range
   Got 500cc IV NS @ 100cc/hr overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2131-11-15**] 04:48 PM
   Vancomycin - [**2131-11-15**] 06:06 PM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-17**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 96 (83 - 103) bpm
   BP: 99/39(54) {83/39(48) - 130/96(104)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.4 kg (admission): 72.3 kg
   Height: 62 Inch
             Total In:
                                                                  3,923 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  3,485 mL
                                                                    111 mL
   Blood products:
                                                                    438 mL
   Total out:
                                                                    273 mL
                                                                    115 mL
   Urine:
                                                                    273 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,650 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   10.4 g/dL
   155 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   49 mg/dL
   106 mEq/L
   138 mEq/L
   33.3 %
   19.7 K/uL
        [image002.jpg]
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
                            [**2131-11-15**]  04:47 PM
                            [**2131-11-15**]  09:09 PM
                            [**2131-11-16**]  12:11 AM
                            [**2131-11-16**]  05:44 AM
                            [**2131-11-16**]  06:03 PM
                            [**2131-11-17**]  04:47 AM
   WBC
   11.8
   14.6
   16.0
   21.1
   24.3
   19.2
   19.7
   Hct
   27.8
   27.9
   27.3
   26.9
   26.9
   26.7
   31.1
   33.3
   Plt
   143
   144
   163
   292
   310
   286
   295
   Cr
   1.2
   1.1
   1.2
   2.3
   2.2
   2.2
   2.1
   TropT
   2.01
   1.93
   2.02
   TCO2
   24
   Glucose
   118
   123
   115
   126
   104
   163
   155
   Other labs: PT / PTT / INR:15.1/44.8/1.3, CK / CKMB /
   Troponin-T:97/5/2.02, ALT / AST:75/90, Alk Phos / T Bili:114/0.7,
   Amylase / Lipase:/134, Differential-Neuts:89.1 %, Lymph:5.8 %, Mono:3.6
   %, Eos:1.2 %, Fibrinogen:560 mg/dL, Lactic Acid:0.9 mmol/L, LDH:517
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: Renal US
   1. Normal size kidneys, no hydronephrosis or nephrolithiasis.
   2. Inadequate assessment for focal lesion.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo F with ischemic cardiomyopathy EF=25-30%, CAD s/ CABG & s/p
   NSTEMI w/in the last week, heart block s/p dual-chamber pacer
   transferred to the MICU with hypotension, decreased urine output, new
   anion gap, and increased leukocytosis.
   .
   # Hypotension: Distributive and cardiogenic etiologies must be
   considered in the pt with CHF, CAD, recent PNA, and marked
   leukocytosis. Most likely hypovolemic given physical exam, urine sodium
   of 11, decreased po intake, and orthostasis. SVO2 imprved with IVF from
   60 to 65. Neck veins initially flat, now with JVP~14cm.
   --Although most likely hypovolemic, cannot truly exclude infection in
   this pt with WBC 25: Empiric Vanco & Cefepime (d1=[**11-15**]),
   --Cautious IVF to achieve improved UOP (if possible, oliguria may also
   be intrarenal)
   --trying to avoid perihperal pressor given SVO2, but  chose neo if
   necessary as already tachycardic and s/p recent NSTEMI; will recheck
   SVO2 on Neo, anticipate that it will go down
   --ROMI: Initial Trop still elevated, but down-trending, slow decline
   not surprising given renal failure. CK/MB flat.
   .
   # Leukocytosis: Etilogy of leukocytosis was unclear even before acute
   jump from 18 to 28 today.  Does raise suspicion for CDIFF.  Less likely
   would be acute rxn to pacer implantation yesterday--too early to invoke
   infectious process in pacer pocket, moreover, does not appear
   infected.  Lines could have been a source, but BCX on [**11-12**] NGTD and
   pending from [**11-15**].
   --Empiric Abx covg as above, f/u cultures
   --LFTs with mild new transaminitis but normal bili, alk phos arguing
   against biliary process. That said, would image, if WBC persists. Trend
   LFTs (could be [**1-29**] to hypotension/hypoperfusion)
   --Would also consider diagnostic thoracentesis as this effusion has
   persisted despite otherwise effective diuresis.
   --f/u BCX/UCX, no sputum ordered as do not suspect lung gicen stable
   resp stutus and imprving CXR
   .
   # CAD: 3VD of both native vessels and grafts. EKG not overtly
   concerning for ischemia, but difficult to interpret in setting of LBBB.
   --ASA, PLAVIX, LIPITOR 80, HOLD ACEi, Metoprolol with high hold
   parameters.
   .
   # CHF: Currrently dry as above. Holding ACEI given BP and ARF, but will
   resume ASAP. Holding parameters for BB. As above, will carefully
   monitor fluid status with repletion given hx of flash pulm edema.
   - Given low EF, her tolerance of afib may be limited and forward flow
   may improve with restoration of atrial kick; consdier discussing
   elective cardioversion with EP (would require TEE).
   .
   Rhythm: AFIB, Heart Block s/p dual chamber pacer: S/p EP interogation.
   Intermittently pacing fast at variable rates. Per EP, this is part of
   rate-responsive algorithm and is functioning appropriatley. Would
   benefit from coumadin in long run, but seems that cardiology team
   deferred for now given persistently low Hct and guiaic +.
   --metoprolol with high BP hold parameter
   --d/w EP, perhaps max rate could be lowered as she is fairly inactive
   at baseline and is pacing to 100s at rest.
   .
   # Oliguric Renal Failure: Urine sodium=11 suggesting pre-renal
   etiology.  That said, absence of aggressive diuresis recently and
   contrast load 48-72 hrs ago argue for some element of contrast
   nephropathy.  Oliguria somewhat improved s/p IVF but UOP still <30 at
   this time and O2 requirement slightly increased.
   --continue to trend.
   --small boluses to achive increase in UOP (cautiously [**1-29**] CHF and resp
   status)
   --repeat urine lytes
   --consider renal c/s if UOP fails to improve
   --trend UOP on low-dose neo, doubt this will have a significant effect
   --Avoid nephrotoxins, renally dose
   .
   # Elevated PTT: Noted previously. SQH d/c by floor team for this
   reason. Will restart SQH [**Hospital1 **] over tid and monitor PTT.
   # Anemia: Guiaic +. If requires long term coumadin, colonoscopy should
   be expedited for soon after d/c.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: H2B, heparin SQ, bowel regimen
   # ACCESS: PIV  PICC
   # CODE:  FULL
   # CONTACT:  DAUGHTERS
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-11-15**] 06:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-11-17 09:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 y/o, female with history of CAD s/p CABG, HTN, and asthma visiting
   from [**Location (un) 9832**], originally admitted to MICU for PNA, hypercarbic
   respiratory failure (intubated), ARF, CHF, NSTEMI, bradycardia
   requiring temp pacer wire, and afib with RVR.  Went to floor [**11-11**] -
   got cath, pacer placed and then bounced back to us from [**Hospital Ward Name **] 3 [**11-15**]
   with acute on CRI, hypotension, decreased urine output, new anion gap,
   and increased leukocytosis.
   24 Hour Events:
   -pacer set to VVI 60 by EP yest
   -per Renal, ARF felt to be pre-renal
   -transfused 1u prbc for Hct 26 and hypotension
   -also got 500c IVF for hypotension
   -got furosemide 20 mg IV for incr sob this am
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2131-11-15**] 04:48 PM
   Vancomycin - [**2131-11-15**] 06:06 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Zantac, Synthroid, allopurinol, Atorvastatin, [**Last Name (LF) **], [**First Name3 (LF) 119**], nystatin S&S
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-17**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.3
C (95.5
   HR: 92 (87 - 103) bpm
   BP: 83/68(71) {83/39(48) - 130/96(104)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 72.3 kg
   Height: 62 Inch
             Total In:
                                                                  3,923 mL
                                                                    157 mL
   PO:
             TF:
   IVF:
                                                                  3,485 mL
                                                                    157 mL
   Blood products:
                                                                    438 mL
   Total out:
                                                                    273 mL
                                                                    190 mL
   Urine:
                                                                    273 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,650 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant), irreg irreg, no m/r/g
   noted
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar 1/2 up)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, asymmetric LUE edema
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   295 K/uL
   155 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   49 mg/dL
   106 mEq/L
   138 mEq/L
   33.3 %
   19.7 K/uL
        [image002.jpg]
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
                            [**2131-11-15**]  04:47 PM
                            [**2131-11-15**]  09:09 PM
                            [**2131-11-16**]  12:11 AM
                            [**2131-11-16**]  05:44 AM
                            [**2131-11-16**]  06:03 PM
                            [**2131-11-17**]  04:47 AM
   WBC
   11.8
   14.6
   16.0
   21.1
   24.3
   19.2
   19.7
   Hct
   27.8
   27.9
   27.3
   26.9
   26.9
   26.7
   31.1
   33.3
   Plt
   143
   144
   163
   292
   310
   286
   295
   Cr
   1.2
   1.1
   1.2
   2.3
   2.2
   2.2
   2.1
   TropT
   2.01
   1.93
   2.02
   TCO2
   24
   Glucose
   118
   123
   115
   126
   104
   163
   155
   Other labs: PT / PTT / INR:15.1/44.8/1.3, CK / CKMB /
   Troponin-T:97/5/2.02, ALT / AST:75/90, Alk Phos / T Bili:114/0.7,
   Amylase / Lipase:/134, Differential-Neuts:89.1 %, Lymph:5.8 %, Mono:3.6
   %, Eos:1.2 %, Fibrinogen:560 mg/dL, Lactic Acid:0.9 mmol/L, LDH:517
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR- L > R effusion, cardiomeg. No sig change compared to
   [**11-7**]
   Renal US- unremarkable
   [**11-16**] Echo- EF 25%, mild to mod MR, inferobasal LV aneurysm, PASP est
   48, nl RV size and fxn; no change from 2 wks ago
   Microbiology: No positive micro data. [**11-15**] - Blood pending. C. diff
   negative. Urine w/ yeast
   Assessment and Plan
   76 y/o, female with history of CAD s/p CABG, HTN, and asthma visiting
   from [**Location (un) 9832**], originally admitted to MICU for PNA, hypercarbic
   respiratory failure (intubated), ARF, CHF, NSTEMI, bradycardia
   requiring temp pacer wire, and afib with RVR.  Went to floor [**11-11**] -
   got cath, pacer placed and then bounced back to us from [**Hospital Ward Name **] 3 [**11-15**]
   with acute on CRI, hypotension, decreased urine output, new anion gap,
   and increased leukocytosis.
   Hypotension- DDx includes underfilled vs overfilled LV. Initially
   resuscitated w/ PRBC and IVF and now with incr dypnea. I suspect more
   of a cardiorenal picture at this point as well as low oncotic pressure.
   HR control also important to aid filling. Doubt sepsis given lack of
   symptoms, signs suggsting infxn
   -TTE demonstrates stable ICM, EF 25% and likely Class II pHTN
   -check albumin
   -Lasix gtt and monitor pressor requirement, goal MAP 55, UOP; goal TBB
   -500 today
   -HR control as below
   -ok to maintain low-dose Neo to aid diuresis
   -f/u cx and resume ABX if any sign/ symptom suggesting infxn
   Oliguric acute renal failure- suspect cardiorenal plus poss contrast
   nephropathy
   -diuresis today and trend
   -renal US yest unremarkable
   CAD/ICM- 3VD of both native vessels and grafts, EF 25% as above
   - Continue [**Month/Year (2) **], [**Month/Year (2) **], Lipitor
   - Hold ACE/metoprolol for BP
   Afib and heart block- s/p pacer w/ interrogation yest and pacer set
   -start dig renally dosed to aid HR control
   LUE swelling- LUE Dopplers today
   Transaminitis- modest elevation on admission; will repeat today
   Guaiac + stools- will need to address colonoscopy prior to dc since
   long-term anticoag will be likely (if not for afib then for low EF and
   LV aneurysm)
   ICU Care
   Nutrition:
   Comments: speech and swallow eval for po tolerance; poor po intake
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2131-11-15**] 06:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.
   CC: resp failure
   Acute on chronic systolic heart failure
   Diuresing on lasix gtt for oliguric acute renal failure.
   New supplemental oxygen requirement, 3L NC .
   Stopped antibiotics due to very low suspicion infection.
   Mild hypotension, on low dose neosynephrine.
   Exam sig for: not in distress. 110/67 (on neo) 100-112 (afib) 96% on 3L
   Bibasilar crackles
   Increased JVD
Continue Lasix gtt, low dose pressor as needed for diuresis.
Cardiac regimen as outlined above.
   Critically ill, 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2131-11-17**] 18:20 ------

2131-11-18 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Lasix gtt started, patient with good UOP throughout the day.  Blood
   pressures increased with Lasix gtt, weaned off of pressor yesterday
   afternoon.
   LUE U/S done to evaluate for swelling, negative for DVT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2131-11-15**] 04:48 PM
   Vancomycin - [**2131-11-15**] 06:06 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-11-17**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-18**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 99 (84 - 109) bpm
   BP: 91/42(55) {91/42(42) - 147/79(92)} mmHg
   RR: 26 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 72.3 kg
   Height: 62 Inch
             Total In:
                                                                    433 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                    433 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    620 mL
   Urine:
                                                                  1,465 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,032 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   10.2 g/dL
   135 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   30.7 %
   12.5 K/uL
        [image002.jpg]
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
                            [**2131-11-15**]  04:47 PM
                            [**2131-11-15**]  09:09 PM
                            [**2131-11-16**]  12:11 AM
                            [**2131-11-16**]  05:44 AM
                            [**2131-11-16**]  06:03 PM
                            [**2131-11-17**]  04:47 AM
                            [**2131-11-17**]  05:05 PM
                            [**2131-11-18**]  05:46 AM
   WBC
   16.0
   21.1
   24.3
   19.2
   19.7
   12.5
   Hct
   27.3
   26.9
   26.9
   26.7
   31.1
   33.3
   30.7
   Plt
   163
   292
   310
   286
   295
   215
   Cr
   1.2
   2.3
   2.2
   2.2
   2.1
   1.9
   1.9
   TropT
   2.01
   1.93
   2.02
   TCO2
   24
   Glucose
   115
   126
   104
   163
   155
   151
   135
   Other labs: PT / PTT / INR:14.1/41.3/1.2, CK / CKMB /
   Troponin-T:97/5/2.02, ALT / AST:185/276, Alk Phos / T Bili:134/0.5,
   Amylase / Lipase:/89, Differential-Neuts:89.1 %, Lymph:5.8 %, Mono:3.6
   %, Eos:1.2 %, Fibrinogen:560 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0
   g/dL, LDH:517 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo F with ischemic cardiomyopathy EF=25-30%, CAD s/ CABG & s/p
   NSTEMI w/in the last week, heart block s/p dual-chamber pacer
   transferred to the MICU with hypotension, decreased urine output, new
   anion gap, and increased leukocytosis.
   .
   # Hypotension: Initially volume depleted as suported by physical exam
   (flat neck veins , clear lungs, skin tenting, dry tongue) and urine
   sodium of 11.  Volume repletion overshot and resulted in some degree of
   failure. At peak was 5.5 L positive, with lasix drip, ended 3.5 L
   positive length of stay. Crackles only at bases, JVP now at clavicle at
   90 degrees, likely approaching euvolemia. Off pressors
   --started on dig yesterday for failure and rate control
   --d/c lasix drip as approaching euvolemia
   --consider cardioversion as seems to have done better hemodynamically
   when in sinus
   --d/c
ed Vanc and Cefepime given that this is more likely cardiogenic
   in etiology. Would restart abx if patient spikes fevers.
   .
   # Leukocytosis: Etilogy of leukocytosis was unclear. C diff negative.
   Less likely would be acute rxn to pacer implantation --too early to
   invoke infectious process in pacer pocket, moreover, does not appear
   infected.  Lines could have been a source, but BCX on [**11-12**] NGTD and
   pending from [**11-15**].
   --d/c
ed Vanc and Cefepime for now given no localizing signs of
   infection. Restart if develops fevers or worsening hypotension.
   --LFTs with mild new transaminitis but normal bili, alk phos arguing
   against biliary process. That said, would image, if WBC persists. LFTS
   now trending down, was likely acute injury [**1-29**] hypotension.
   --f/u culture data
   .
   # CAD: 3VD of both native vessels and grafts. EKG not overtly
   concerning for ischemia, but difficult to interpret in setting of LBBB.
   --ASA, PLAVIX, LIPITOR 80, HOLD ACEi, Metoprolol with high hold
   parameters.
   .
   # CHF: Currrently fluid overloaded. Holding ACEI given  ARF, but will
   resume ASAP. Holding parameters for BB. As above, will carefully
   monitor fluid status with repletion given hx of flash pulm edema.
   - Given low EF, her tolerance of afib may be limited and forward flow
   may improve with restoration of atrial kick; consdier discussing
   elective cardioversion with EP (would require TEE).
   ***Need to discuss with cardiology re: inferior LV aneurysm seen on
   second echo. Per read in system, unclear if this is new s/p NSTEMI, if
   that is the case, anticoagulation would be indiacted in the acute
   setting to avoid LV thrombus. If this is an old finding, no acute
   anti-coag needed, pt would require it only for AFIB with high CHADS.
   .
   Rhythm: AFIB, Heart Block s/p dual chamber pacer: S/p EP interogation.
   Changed to VVI set at 60.
   --speak with EP prior to d/c so they can reset pacer
   .
   # Oliguric Renal Failure: Initial Urine sodium=11 suggesting pre-renal
   etiology.  This rose to 84 with volume repletion (prior to receiving
   lasix) further suggesting prereanl etiology of initial oliguria. Also
   some likely contribution from contrast as [**Last Name (un) **] seems [**Last Name (un) 9131**] have occurred
   48-72 hrs post cath
   --Avoid nephrotoxins, renally dose meds
   .
   # Elevated PTT: Noted previously. SQH d/c by floor team for this
   reason. Will restart SQH [**Hospital1 **] over tid and monitor PTT.
   # Anemia: Guiaic +. If requires long term coumadin, colonoscopy should
   be expedited for soon after d/c.
   .
   # FEN: replete lytes prn / speech and swallow consult
   # PPX: H2B, heparin SQ, bowel regimen
   # ACCESS: PIV  PICC
   # CODE:  FULL
   # CONTACT:  DAUGHTERS
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-11-15**] 06:07 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-11-18 10:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 y/o, female with history of CAD s/p CABG, HTN, and asthma visiting
   from [**Location (un) 9832**], originally admitted to MICU for PNA, hypercarbic
   respiratory failure (intubated), ARF, CHF, NSTEMI, bradycardia
   requiring temp pacer wire, and afib with RVR.  Went to floor [**11-11**] -
   got cath, pacer placed and then bounced back to us from [**Hospital Ward Name **] 3 [**11-15**]
   with acute on CRI, hypotension, decreased urine output, new anion gap,
   and increased leukocytosis.
   24 Hour Events:
   weaned off pressors yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2131-11-15**] 04:48 PM
   Vancomycin - [**2131-11-15**] 06:06 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-11-18**] 08:07 AM
   Ranitidine (Prophylaxis) - [**2131-11-18**] 08:08 AM
   Other medications:
   Allopurinol, Synthroid, Plavix, Lipitor, ASA, metoprolol, nystatin S&S,
   Lasix gtt, digoxin 0.0625, Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-18**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 104 (84 - 109) bpm
   BP: 133/80(92) {91/42(42) - 147/80(92)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 72.3 kg
   Height: 62 Inch
             Total In:
                                                                    433 mL
                                                                    205 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                    433 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    780 mL
   Urine:
                                                                  1,465 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,032 mL
                                                                   -575 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no JVD at 85 degrees
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, improved
   since yest)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, 2+ LUE edema
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   215 K/uL
   135 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   30.7 %
   12.5 K/uL
        [image002.jpg]
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
                            [**2131-11-15**]  04:47 PM
                            [**2131-11-15**]  09:09 PM
                            [**2131-11-16**]  12:11 AM
                            [**2131-11-16**]  05:44 AM
                            [**2131-11-16**]  06:03 PM
                            [**2131-11-17**]  04:47 AM
                            [**2131-11-17**]  05:05 PM
                            [**2131-11-18**]  05:46 AM
   WBC
   16.0
   21.1
   24.3
   19.2
   19.7
   12.5
   Hct
   27.3
   26.9
   26.9
   26.7
   31.1
   33.3
   30.7
   Plt
   163
   292
   310
   286
   295
   215
   Cr
   1.2
   2.3
   2.2
   2.2
   2.1
   1.9
   1.9
   TropT
   2.01
   1.93
   2.02
   TCO2
   24
   Glucose
   115
   126
   104
   163
   155
   151
   135
   Other labs: PT / PTT / INR:14.1/41.3/1.2, CK / CKMB /
   Troponin-T:97/5/2.02, ALT / AST:185/276, Alk Phos / T Bili:134/0.5,
   Amylase / Lipase:/89, Differential-Neuts:89.1 %, Lymph:5.8 %, Mono:3.6
   %, Eos:1.2 %, Fibrinogen:560 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0
   g/dL, LDH:517 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: LUE Dopplers- neg for DVT
   Assessment and Plan
   76 y/o, female with history of CAD s/p CABG, HTN, and asthma visiting
   from [**Location (un) 9832**], originally admitted to MICU for PNA, hypercarbic
   respiratory failure (intubated), ARF, CHF, NSTEMI, bradycardia
   requiring temp pacer wire, and afib with RVR.  Went to floor [**11-11**] -
   got cath, pacer placed and then bounced back to us from [**Hospital Ward Name **] 3 [**11-15**]
   with acute on CRI, hypotension, decreased urine output, new anion gap,
   and increased leukocytosis.
   Hypotension- I suspect more of a cardiorenal picture at this point,
   clinically better after diuresis of ~1L in last 24h. Doubt sepsis given
   lack of symptoms, signs suggsting infxn. Weaned off pressors with
   diuresis and improved renal fxn
   -TTE demonstrates stable ICM, EF 25% and likely Class II pHTN
   -back off diuress today,goal TBB -500 today and plan to maintain MAP >
   55, reasonable UOP
   -HR control as below
   -f/u cx and resume ABX if any sign/ symptom suggesting infxn
   Oliguric acute renal failure- suspect cardiorenal plus poss contrast
   nephropathy; slowly improving
   -diuresis today and trend
   -renal US yest unremarkable
   Transaminitis- mild and increased yest; will re-check. Benign abd exam.
   CAD/ICM- 3VD of both native vessels and grafts, EF 25% as above
   - Continue Asa, Plavix, Lipitor
   - Resume BB today and cont to hold ACE-I
   Afib and heart block- s/p pacer w/ interrogation yest and pacer set
   -cont dig renally dosed to aid HR control
   Guaiac + stools
   - will need to address colonoscopy prior to dc since long-term anticoag
   will be likely (if not for afib then for low EF and LV aneurysm)
   ICU Care
   Nutrition:
   Comments: po intake
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2131-11-15**] 06:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2131-11-18**] 15:30 ------